US06723720B2
At −20° C., 1.5 ml of n-butyllithium (1.6M in hexane) are added to 202 mg of diisopropylamine in 6 ml of tetrahydrofuran. After 15 min. the reaction mixture is cooled to −50° C. and 0.414 g of 3-(2,6-difluorophenyl)-6-methyl-[1,2,4]triazine in 2 ml of tetrahydrofuran is added dropwise. After 20 min. the mixture is cooled to −70° C., 0.281 g of 4-chlorobenzaldehyde in 3 ml of tetrahydrofuran is added dropwise and the mixture is then stirred at −70° C. for 2 h. The reaction mixture is then poured into ice-water and extracted with ethyl acetate; the organic phase is concentrated and the residue is purified by means of flash chromatography. In this way 1-(4-chlorophenyl)-2-[3-(2,6-difluorophenyl)-[1,2,4]triazin-6-yl]-ethanol is obtained in the form of a light-brown resin. After recrystallisation from diethyl ether/hexane, 1-(4-chlorophenyl)-2-[3-(2,6-difluorophenyl)-[1,2,4]triazin-6-yl]-ethanol is obtained in the form of beige crystals having a melting point of 98-102° C.

reactant | n-butyllithium | 1.6M, 1.5 ml | C(CCC)[Li]
reactant | diisopropylamine | 202 mg | C(C)(C)NC(C)C | C6H15N
reactant | 3-(2,6-difluorophenyl)-6-methyl-[1,2,4]triazine | 0.414 g | FC1=C(C(=CC=C1)F)C=1N=NC(=CN1)C | C10H7F2N3
reactant | 4-chlorobenzaldehyde | 0.281 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-2-[3-(2,6-difluorophenyl)-[1,2,4]triazin-6-yl]-ethanol | ClC1=CC=C(C=C1)C(CC1=CN=C(N=N1)C1=C(C=CC=C1F)F)O | C17H12ClF2N3O
